US08835420B2
(S)-2,4-Diamino-6-((1-(6-(3-methoxyazetidin-1-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)pyrimidine-5-carbonitrile
(S)-1-(6-(3-Methoxyazetidin-1-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine (469 mg, 1.80 mmol), 2,4-diamino-6-chloropyrimidine-5-carbonitrile (367 mg, 2.16 mmol), and N-ethyl-N-isopropylpropan-2-amine (628 μl, 3.60 mmol) were combined in acetonitrile (1.8 mL). The reaction mixture was heated in a microwave reactor at 120° C. for 2 hours. Additional 2,4-diamino-6-chloropyrimidine-5-carbonitrile (367 mg, 2.16 mmol) and N-ethyl-N-isopropylpropan-2-amine (628 μL, 3.60 mmol) were added. The reaction mixture was heated in a microwave reactor at 120° C. for 1 hour and then concentrated in vacuo. The residue was taken up in DMF and purified by preparative HPLC (basic mode) eluting with 25-50% ACN in water. The fractions containing the desired compound were combined and concentrated in vacuo. The residue was added to a silica gel column and was eluted with EtOAc. The fractions containing the desired product were combined and concentrated in vacuo to give the title compound as an off-white solid (106 mg, 15%). 1H NMR (500 MHz, CD3OD) δ ppm 1.49 (d, J=6.83 Hz, 3 H), 3.40 (s, 3 H), 3.70-3.74 (m, 1 H), 3.82 (s, 3 H), 3.89 (dd, J=7.32, 4.39 Hz, 1 H), 4.15-4.20 (m, 1 H), 4.32-4.40 (m, 2 H), 5.64 (q, J=6.83 Hz, 1 H), 6.51 (dd, J=3.42, 0.98 Hz, 1 H), 7.20 (s, 1 H), 7.31 (d, J=2.93 Hz, 1 H); ESI-MS m/z [M+H]+ calc'd for C19H23N9O, 394.2; found 394.5.

reactant | (S)-1-(6-(3-Methoxyazetidin-1-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine | 1.80 mmol, 469 mg | COC1CN(C1)C=1C=C2C(=NC1[C@H](C)N)C=CN2C | C14H20N4O
reactant | 2,4-diamino-6-chloropyrimidine-5-carbonitrile | 2.16 mmol, 367 mg | NC1=NC(=C(C(=N1)N)C#N)Cl | C5H4ClN5
reactant | N-ethyl-N-isopropylpropan-2-amine | 3.60 mmol, 628 μl | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 2,4-diamino-6-chloropyrimidine-5-carbonitrile | 2.16 mmol, 367 mg | NC1=NC(=C(C(=N1)N)C#N)Cl | C5H4ClN5
reactant | N-ethyl-N-isopropylpropan-2-amine | 3.60 mmol, 628 μL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 1.8 mL | C(C)#N | C2H3N
product | (S)-2,4-Diamino-6-((1-(6-(3-methoxyazetidin-1-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)pyrimidine-5-carbonitrile | 106 mg, 15% | NC1=NC(=C(C(=N1)N)C#N)N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)N2CC(C2)OC | C19H23N9O
